US07157488B2
Combine N-2-(5-chloro-1H-indol-3-yl)ethyl)-(3-(2,2,3,3-tetrafluoropropoxy)benzylamine oxalic acid salt and dichloromethane (700 mL) and add NaOH 1N(150 mL), water (450 mL) and MeOH (190 mL). Stir the mixture for 1 h at room temperature. Separate the layers. Add water (200 mL) to the aqueous phase and extract with dichloromethane, combine the organic layers, dry over MgSO4, filter, and evaporate under vacuum to afford 19.4 g of N-2-(5-chloro-1H-indol-3-yl)ethyl)-3-(2,2,3,3-tetrafluoropropoxy)benzylamine.

reactant | 3-(2,2,3,3-tetrafluoropropoxy)benzylamine oxalic acid salt | C(C(=O)O)(=O)O.FC(COC=1C=C(CN)C=CC1)(C(F)F)F
reactant | dichloromethane | 700 mL | ClCCl | CH2Cl2
reactant | NaOH | 1N, 150 mL | [OH-].[Na+]
reactant | water | 450 mL | O | H2O
solvent | MeOH | 190 mL | CO | CH4O
product | 3-(2,2,3,3-tetrafluoropropoxy)benzylamine | FC(COC=1C=C(CN)C=CC1)(C(F)F)F | C10H11F4NO
